### PR TITLE
Add extgcd

### PR DESCRIPTION
**Pull request by andres-erbsen**
Closes #16905 

- [x] Added / updated **test-suite**.
- [x] Added **changelog**.

### CODE REVIEW

File: theories/ZArith/Znumtheory.v [hunk 1]
```diff
@@ -287,72 +287,68 @@ Section extended_euclid_algorithm.
...
+      auto using Zis_gcd_sym, Zis_gcd_minus)).
+  Defined.
+
+  Lemma extgcd_correct [u v d] : extgcd = (u, v, d) -> u * a + v * b = d /\ Zis_gcd a b d.
+  Proof.
+    pose proof (proj2_sig _ : _ extgcd).
+    case extgcd as [[]?] in *; intuition congruence.
+  Qed.
+
+  Inductive deprecated_Euclid : Set :=
```
Comment (JasonGross) [inline theories/ZArith/Znumtheory.v:325]: Do lemmas and inductives not support deprecated?

Comment (andres-erbsen) [reply theories/ZArith/Znumtheory.v:325]: Yep https://github.com/coq/coq/issues/12266

**Comment by andres-erbsen** [comment]
The Windows CI job shows "In progress" and spinner but following the "Details" link shows it as completed.

**Comment by andres-erbsen** [comment]
It would be lovely if we could have an assignee for this.

The last non-cleanup change appears to be from 
2006 by Jean-Marc Notin for whom coqbot does not know a Github account. @JasonGross are you willing? Fiat Crypto is the top user of Znumtheory in CI after VST and Bedrock2, and I am hoping to contribute more cleanups to this file in the future.

File: theories/ZArith/Znumtheory.v [hunk 2]
```diff
@@ -287,72 +295,71 @@ Section extended_euclid_algorithm.
...
-        apply (H (u3 - q * x) Hq (proj1 Hq) v1 v2 x (u1 - q * v1) (u2 - q * v2)).
-        * tauto.
-        * replace ((u1 - q * v1) * a + (u2 - q * v2) * b) with
-            (u1 * a + u2 * b - q * (v1 * a + v2 * b)) by ring.
-          rewrite H1; rewrite H2; trivial.
-        * intros; apply H3.
-          apply Zis_gcd_for_euclid with q; assumption.
-    - assumption.
+    pose proof (proj2_sig _ : _ extgcd).
+    case extgcd as [[]?] in *; intuition congruence.
```
Comment (JasonGross) [inline theories/ZArith/Znumtheory.v:333]: Why not `unfold extgcd; destruct extgcd_rec`?  Coq will fill in the arguments for you, and this seems a bit cleaner than the `pose proof` above.

**Review by JasonGross — APPROVED** [review]
Looks good, let me know if you want me to merge as-is or if you want to tweak the proof as I suggest.

**Comment by andres-erbsen** [comment]
@coqbot run full ci

**Comment by andres-erbsen** [comment]
The CI failures are unrelated:
- [test-suite:base+async failed](https://gitlab.com/coq/coq/-/jobs/3432935081) even though the non-async version passed. The error is in `test-suite/bugs/bug_16803.v`, `Error: The command has not failed!` and failed with the same error [on master](https://github.com/coq/coq/runs/9917295635).
- [library:ci-color failed](https://gitlab.com/coq/coq/-/jobs/3432935453) on `COQNATIVE Term/Lambda/LSystemT.vo` with `ocamlopt.opt got signal and exited` and failed with the same error [on master](https://github.com/coq/coq/runs/9917599039).
- [plugin:ci-itauto failed](https://gitlab.com/coq/coq/-/jobs/3432935797) when compiling `src/no.ml` with `EConstr.ESorts.t = Evd.esorts but an expression was expected of type Sorts.t` and failed with the same error [on master](https://github.com/coq/coq/runs/9917351300).

**Comment by JasonGross** [comment]
@coqbot merge now
